### PR TITLE
[Merged by Bors] - feature(RingTheory/RootsOfUnity/Complex): Morphism from `ZMod n` to `rootsOfUnity n ℂ`

### PR DESCRIPTION
**Pull request by mans0954**
Construct the canonical (iso)morphism from  `ZMod n`, the cyclic additive group of order `n`, to `rootsOfUnity n ℂ`, the multiplicative group of complex roots of unity.

This PR shows the map is a homomorphism. The proof that it is an isomorphism will follow in a separate PR (#24416).

---

- [x] depends on: #24463

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
There seems to be a quite a lot of overlap here with the existing results in the library in [Mathlib/Analysis/Complex/Circle.lean](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/Circle.html) and  [Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.html). For instance your `Units.expHom` seems to be identical to `Circle.expHom`.

Perhaps a good way forward would be to define a natural map from `rootsOfUnity n ℂ` to `Circle`, construct an `AddChar` from `ZMod n` to `rootsOfUnity n ℂ`, and show that the composite of those two things is `ZMod.toCircle`.

**Comment by mans0954** [comment]
> There seems to be a quite a lot of overlap here with the existing results in the library in [Mathlib/Analysis/Complex/Circle.lean](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Complex/Circle.html) and [Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.html). For instance your `Units.expHom` seems to be identical to `Circle.expHom`.

Yes - I based my definition `Units.exp` on `Circle.exp` - the difference being that the range of `Units.exp` is `ℂˣ` rather than `Circle`. But otherwise their extremely  similar and I agree that it would be good to avoid adding another `t -> e^it` map if it can be avoided.

In a similar vein, we also have `circleMap`.

> 
> Perhaps a good way forward would be to define a natural map from `rootsOfUnity n ℂ` to `Circle`, construct an `AddChar` from `ZMod n` to `rootsOfUnity n ℂ`, and show that the composite of those two things is `ZMod.toCircle`.

Thanks - I hadn't spotted `ZMod.toCircle`. 

I notice that there's a [TODO](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/RingTheory/RootsOfUnity/AlgebraicallyClosed.lean#L20) to add `rootsOfUnity n Circle ≃* rootsOfUnity n ℂ`. Perhaps showing that `ZMod.toCircle` is surjective onto `rootsOfUnity n Circle` and then composing with `rootsOfUnity n Circle ≃* rootsOfUnity n ℂ` would work?

**Comment by mans0954** [comment]
> I notice that there's a [TODO](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/RingTheory/RootsOfUnity/AlgebraicallyClosed.lean#L20) to add `rootsOfUnity n Circle ≃* rootsOfUnity n ℂ`.

In one direction:
```
#check ((rootsOfUnityUnitsMulEquiv ℂ n).toMonoidHom.comp (restrictRootsOfUnity Circle.toUnits n) :
  ((rootsOfUnity n Circle) →* (rootsOfUnity n ℂ)))
```

**Comment by mans0954** [comment]
How about something like this? #24591

File: Mathlib/Analysis/Complex/Circle.lean [hunk 1]
```diff
@@ -182,6 +182,17 @@ protected lemma norm_smul {E : Type*} [SeminormedAddCommGroup E] [NormedSpace 
     ‖u • v‖ = ‖v‖ := by
   rw [Submonoid.smul_def, norm_smul, norm_eq_of_mem_sphere, one_mul]
 
+lemma exp_nat_mul (n : ℕ) (t : ℝ) : exp (n * t) = exp t ^ n := by
+  simp only [exp, ContinuousMap.coe_mk, ofReal_mul, ofReal_natCast, mul_assoc, Complex.exp_nat_mul]
```
Comment (loefflerd) [inline Mathlib/Analysis/Complex/Circle.lean:186]: If you move this to after `probChar` is defined, then there's a quicker proof `simpa using Real.probChar.map_nsmul_eq_pow n t`.

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 2]
```diff
@@ -63,6 +63,13 @@ lemma toCircle_apply (j : ZMod N) :
     toCircle j = exp (2 * π * I * j.val / N) := by
   rw [← toCircle_natCast, natCast_zmod_val]
 
+lemma toCircle_eq_circleExp (j : ZMod N) :
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:66]: This is already part of your other PR I just reviewed, isn't it? When you have one PR that depends on another you should add a "depends on..." flag to the later PR's in the sequence, so your code isn't getting reviewed twice.

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 3]
```diff
@@ -83,4 +90,17 @@ lemma isPrimitive_stdAddChar (N : ℕ) [NeZero N] :
   refine AddChar.zmod_char_primitive_of_eq_one_only_at_zero _ _ (fun t ht ↦ ?_)
   rwa [← (stdAddChar (N := N)).map_zero_eq_one, injective_stdAddChar.eq_iff] at ht
 
+/-- `ZMod.toCircle` as an `AddChar` into `rootsOfUnity n Circle`. -/
+noncomputable def expHom (n : ℕ) [NeZero n] : AddChar (ZMod n) (rootsOfUnity n Circle) where
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:94]: The name should mention roots of unity somehow; maybe `rootsOfUnityAddChar`?

Probably it is also useful to have a rfl-lemma accompanying the definition, maybe
```
@[simp] lemma rootsOfUnityAddChar_val (n : ℕ) [NeZero n] (x : ZMod n) : 
    (rootsOfUnityAddChar n x).val = toCircle x := by
  rfl
```

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean [hunk 4]
```diff
@@ -83,4 +90,17 @@ lemma isPrimitive_stdAddChar (N : ℕ) [NeZero N] :
...
+  toFun x := ⟨toUnits (ZMod.toCircle x), by
+    have e1 : ↑n * (2 * π * (↑x.val / ↑n)) = ↑x.val * (2 * π) := by
+      rw [mul_comm, mul_assoc, natCast_val, div_mul_cancel_of_invertible, mul_comm]
+    simp_rw [_root_.mem_rootsOfUnity, toCircle_eq_circleExp, ← map_pow,
+      ← Circle.exp_nat_mul, e1, Circle.exp_nat_mul_two_pi]
+    simp only [natCast_val, map_one]⟩
+  map_zero_eq_one' := by
+    simp only [AddChar.map_zero_eq_one, map_one, Subgroup.mk_eq_one]
+  map_add_eq_mul' _ _:= by
+    simp_rw [AddChar.map_add_eq_mul, map_mul, MulMemClass.mk_mul_mk]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:104]: golf:
```suggestion
  toFun x := ⟨toUnits (ZMod.toCircle x), by ext; simp [← AddChar.map_nsmul_eq_pow]⟩
  map_zero_eq_one' := by simp
  map_add_eq_mul' _ _:= by ext; simp [AddChar.map_add_eq_mul]
```

File: Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:66]: > This is already part of your other PR I just reviewed, isn't it? When you have one PR that depends on another you should add a "depends on..." flag to the later PR's in the sequence, so your code isn't getting reviewed twice.

PS. I see you already did. But then it's probably better to wait with requesting reviews until the prerequisite PRs are merged (yes, I know this slows things down, sorry).

Comment (mans0954) [reply Mathlib/Analysis/SpecialFunctions/Complex/CircleAddChar.lean:66]: Sorry.

**Comment by loefflerd** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
